US07517873B2
A solution of 0.050 g (0.000165 mole) of (rac)-2-chloro-5,7-dimethyl-9-phenyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-51), 0.043 g (0.000165 mole) of 4-amino-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide, 0.049 (0.00025 mole) of p-toluenesulfonic acid monohydrate and 4.0 mL of 2-propanol (4.0 mL) was heated at 180 degrees for 2 hours in a microwave reactor. The cooled reaction mixture was concentrated under reduced pressure. The residue was diluted with dichloromethane and washed twice with saturated sodium bicarbonate solution. The aqueous phase was extracted with dichloromethane. The combined organic phases were washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with dichloromethane-methanol (100:0-75:25), to give 0.0526 g of (rac)-4-(5,7-dimethyl-6-oxo-9-phenyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide (I-51) as white powder. HRMS (ES+) m/z Calcd for C29H35N7O3+H [(M+H)+]: 530.2874. Found: 530.2870.

reactant | (rac)-2-chloro-5,7-dimethyl-9-phenyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.000165 mole, 0.050 g | ClC=1N=CC2=C(N(CC(C(N2C)=O)C)C2=CC=CC=C2)N1 | C15H15ClN4O
reactant | 4-amino-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide | 0.000165 mole, 0.043 g | NC1=C(C=C(C(=O)NC2CCN(CC2)C)C=C1)OC | C14H21N3O2
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | 2-propanol | 4.0 mL | CC(C)O | C3H8O
product | (rac)-4-(5,7-dimethyl-6-oxo-9-phenyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide | 0.0526 g | CN1C2=C(N(CC(C1=O)C)C1=CC=CC=C1)N=C(N=C2)NC2=C(C=C(C(=O)NC1CCN(CC1)C)C=C2)OC | C29H35N7O3
